US05707989
A mixture of 397 g of 3-(4-amino-phenyl)propionic acid, 125 g of NaOH and 160 g of Raney nickel in 5.71 of water is hydrogenated at 170° C. and 100 bar until no further hydrogen is taken up (30 hours). After filtration and washing the residue with water, 6.31 of a colourless solution are obtained as the filtrate, which is combined with a solution of 129 g of NaOH in 400 ml of water, after which 454 ml of acetic anhydride are added dropwise thereto within 35 minutes. After 5 hours the precipitate is filtered off, the filtrate is adjusted to pH 4 by the addition of concentrated hydrochloric acid and stirred for 3 hours at 0° C. It is then suction filtered, washed with 250 ml of ice water and dried at 70° C. In this way, 216 g of 3-(trans-4-acetylaminocyclohexyl)propionic acid are obtained.

reactant | 3-(4-amino-phenyl)propionic acid | 397 g | NC1=CC=C(C=C1)CCC(=O)O | C9H11NO2
reactant | NaOH | 125 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | NaOH | 129 g | [OH-].[Na+]
reactant | acetic anhydride | 454 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | Raney nickel | 160 g | [Ni] | Ni
solvent | water | 400 ml | O | H2O
product | 3-(trans-4-acetylaminocyclohexyl)propionic acid | 216 g | C(C)(=O)N[C@@H]1CC[C@H](CC1)CCC(=O)O | C11H19NO3
